US09376454B2
Step 3. Synthesis of 1-(2-tert-Butoxycarbonylamino-ethyl)-1H-indole-6-carboxylic acid
Sodium hydroxide (1N, 6.0 mL, 6.00 mmol) was added to a solution of 1-(2-tert-Butoxycarbonylamino-ethyl)-1H-indole-6-carboxylic acid methyl ester (0.501 g, 1.57 mmol) in methanol (12 mL) and THF (4.0 mL). The reaction was stirred at room temperature for 68 hr. The reaction was concentrated in vacuo. The aqueous residue was acidified to pH˜1 with 1N HCl and extracted with ethyl acetate (3×). The combined organic layers were dried over Na2SO4, filtered, and concentrated. The crude product was carried forward without purification. ESI-MS m/z 327 (M+Na)+.

reactant | Sodium hydroxide | 6.00 mmol, 1N, 6.0 mL | [OH-].[Na+]
reactant | 1-(2-tert-Butoxycarbonylamino-ethyl)-1H-indole-6-carboxylic acid methyl ester | 1.57 mmol, 0.501 g | COC(=O)C1=CC=C2C=CN(C2=C1)CCNC(=O)OC(C)(C)C | C17H22N2O4
solvent | methanol | 12 mL | CO | CH4O
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
product | 1-(2-tert-Butoxycarbonylamino-ethyl)-1H-indole-6-carboxylic acid | C(C)(C)(C)OC(=O)NCCN1C=CC2=CC=C(C=C12)C(=O)O | C16H20N2O4
